US05576340
Methyl 4-(2-oxopropoxy)cinnamate
Following a procedure similar to that described in Preparation 3, but using 16 g of methyl 4-hydroxycinnamate, 14.9 g of bromoacetone, 20 g of potassium carbonate and 150 ml of dimethylformamide, the title compound was obtained as crystals, melting at 117°-118° C. (after recrystallization from ethyl acetate).

reactant | methyl 4-hydroxycinnamate | 16 g | OC1=CC=C(C=CC(=O)OC)C=C1 | C10H10O3
reactant | bromoacetone | 14.9 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-(2-oxopropoxy)cinnamate | O=C(COC1=CC=C(C=CC(=O)OC)C=C1)C | C13H14O4
